US07304174B2
Methyl (3-fluoro-4-methylphenyl)acetate
(3-Fluoro-4-methylphenyl)acetic acid (105.3 g) was dissolved in methanol (740 ml) and concentrated sulfuric acid (9.9 ml) was added. The mixture was stirred at 85° C. for 1 hr. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. Water was added to the obtained residue and the mixture was extracted with ethyl acetate (1 L). The organic layer was washed successively with water, aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (114.2 g).

reactant | (3-Fluoro-4-methylphenyl)acetic acid | 105.3 g | FC=1C=C(C=CC1C)CC(=O)O | C9H9FO2
reactant | sulfuric acid | 9.9 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 740 ml | CO | CH4O
product | Methyl (3-fluoro-4-methylphenyl)acetate | 114.2 g | FC=1C=C(C=CC1C)CC(=O)OC | C10H11FO2
